US04692442
(3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidine
A solution of 350 mg of 4-p-nitrobenzyloxycarbonylaminothiobutyric acid sodium salt in 4 ml of water is added dropwise to a solution of 135 mg of (3S,4R)-4-chloro-3-methoxy-2-oxoazetidine in 6 ml of a phosphate buffer of a pH of 7 and 0.4 ml of dioxan in the presence of 150 mg of sodium iodide.

reactant | 4-p-nitrobenzyloxycarbonylaminothiobutyric acid sodium salt | 350 mg | [Na+].[N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=S)[O-])C=C1
reactant | (3S,4R)-4-chloro-3-methoxy-2-oxoazetidine | 135 mg | Cl[C@@H]1[C@H](C(N1)=O)OC | C4H6ClNO2
reactant | dioxan | 0.4 ml | O1CCOCC1 | C4H8O2
reactant | sodium iodide | 150 mg | [I-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | phosphate | 6 ml | P(=O)([O-])([O-])[O-]
product | (3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidine | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)S[C@@H]2[C@H](C(N2)=O)OC)C=C1 | C16H19N3O7S
